US09388161B2
A 1000-mL round-bottom flask was charged with (2S)-1-cyclopropanecarbonyl-5-methoxy-2-methyl-1,2,3,4-tetrahydroquinoline (15.0 g, 61.2 mmol) and dichloromethane (300 mL). A solution of boron tribomide (1 M in dichloromethane, 308 mL, 308 mmol) was added dropwise at 0° C., and the resulting solution stirred for 1 h at 0° C. The reaction mixture was then poured into 500 mL of water/ice and extracted with dichloromethane (2×500 mL). The combined organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was purified via column chromatography on silica gel (eluting with 0-80% ethyl acetate/petroleum ether) to afford (2S)-1-cyclopropanecarbonyl-2-methyl-1,2,3,4-tetrahydroquinolin-5-ol (9.4 g, 66%) as an off-white solid. MS (ES, m/z): 232 [M+H]+

reactant | (2S)-1-cyclopropanecarbonyl-5-methoxy-2-methyl-1,2,3,4-tetrahydroquinoline | 61.2 mmol, 15.0 g | C1(CC1)C(=O)N1[C@H](CCC2=C(C=CC=C12)OC)C | C15H19NO2
reactant | boron | [B] | B
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | (2S)-1-cyclopropanecarbonyl-2-methyl-1,2,3,4-tetrahydroquinolin-5-ol | 9.4 g, 66% | C1(CC1)C(=O)N1[C@H](CCC=2C(=CC=CC12)O)C | C14H17NO2
